US06191166B1
Synthesis of Ethyl N-[N-(3,5-Difluorophenylacetyl)-L-alaninyl]-2-amino-2-phenylpropionate
Following General Procedure C and using 3,5-difluorophenylacetic acid (Oakwood) and ethyl N-(L-alaninyl)-2-amino-2-phenylpropionate hydrochloride (prepared from N-BOC-L-alanine (Sigma) and D,L-α-methylphenylglycine ethyl ester (from Example D9 above) using General Procedure C, followed by removal of the BOC-group using General Procedure P), the title compound was prepared as a solid (mp=128-130° C.). The reaction was monitored by tlc (Rf=0.2 in 3% MeOH/CHCl3) and the product was purified by silica gel chromatography using 3% MeOH/CHCl3 as the eluent.

reactant | 3,5-difluorophenylacetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | ethyl N-(L-alaninyl)-2-amino-2-phenylpropionate hydrochloride | Cl.N[C@@H](C)C(=O)NC(C(=O)OCC)(C)C1=CC=CC=C1
reactant | N-BOC-L-alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | Ethyl N-[N-(3,5-Difluorophenylacetyl)-L-alaninyl]-2-amino-2-phenylpropionate | FC=1C=C(C=C(C1)F)CC(=O)N[C@@H](C)C(=O)NC(C(=O)OCC)(C)C1=CC=CC=C1 | C22H24F2N2O4
